US05045223
3-Butyl-1,2-benzisothiazole-1,1-dioxide
This material was prepared by adding 2 equivalents of butyllithium to saccharin in THF at -78° C., followed by aqueous workup at pH 9 as described in the literature by Abramovitch et al., J. Chem. Soc. Perkin I, 1974, 2589.

reactant | butyllithium | 2 equivalents | C(CCC)[Li]
reactant | saccharin | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
solvent | THF | C1CCOC1 | C4H8O
product | 3-Butyl-1,2-benzisothiazole-1,1-dioxide | C(CCC)C1=NS(C2=C1C=CC=C2)(=O)=O | C11H13NO2S
